US08809012B2
Step 4: Synthesis of tert-butyl((4-ethynylbenzyl)oxy)dimethylsilane
Under argon condition, tert-butyldimethyl((4-((trimethylsilyl)-ethynyl)benzyl)oxy)silane (383 mg, 2.40 mmol) and potassium carbonate (332 mg, 2.40 mmol) were dissolved in 4 mL of methanol, and then stirred for 2 hours at room temperature. Upon completion of the reaction, the reaction was terminated by adding 10 mL of aqueous saturated ammonium chloride solution. The reaction mixture was extracted with ethyl acetate (5 mL×4) and the organic layer thus obtained was treated with anhydrous magnesium sulfate to remove water. The precipitate was filtered out and the resulting solution was concentrated by distillation under reduced pressure, and purified by column chromatography to obtain 280 mg (1.14 mmol, 95%) of the desired compound.

reactant | tert-butyldimethyl((4-((trimethylsilyl)-ethynyl)benzyl)oxy)silane | 2.40 mmol, 383 mg | C(C)(C)(C)[Si](OCC1=CC=C(C=C1)C#C[Si](C)(C)C)(C)C | C18H30OSi2
reactant | potassium carbonate | 2.40 mmol, 332 mg | C([O-])([O-])=O.[K+].[K+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | methanol | 4 mL | CO | CH4O
product | tert-butyl((4-ethynylbenzyl)oxy)dimethylsilane | 1.14 mmol, 280 mg, 95% | C(C)(C)(C)[Si](C)(C)OCC1=CC=C(C=C1)C#C | C15H22OSi
